US05068325
4o) 2-Amino-6-(3-(2,3-dimethoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2,3-dimethoxy-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 39% of theory, Melting point: 87°-9 1° C. (ether).

reactant | 2,3-dimethoxy-cinnamyl chloride | COC1=C(C=CCCl)C=CC=C1OC | C11H13ClO2
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(2,3-dimethoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 39% | NC=1SC=2CCN(CCC2N1)CC=CC1=C(C(=CC=C1)OC)OC | C18H23N3O2S
